US07423185B2
Methanesulfonyl chloride (0.13 mL) was added to an ice-cooled mixture of ethyl 4′-(2-hydroxyethoxy)biphenyl-4-carboxylate (0.41 g) and triethylamine (0.30 mL) in tetrahydrofuran (8 mL) with stirring. The mixture was stirred at that temperature for 30 min, at room temperature for 45 min, and at 45° C. for 1 hr. Methanesulfonyl chloride (0.13 mL) and triethylamine (0.30 mL) were added every an hour to the reaction mixture for 3 times at 45° C., and the mixture was stirred at 70° C. for 3 hrs. 1 mol/L hydrochloric acid and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to afford ethyl 4′-(2-methanesulfonyloxyethoxy)biphenyl-4-carboxylate (0.32 g).

reactant | Methanesulfonyl chloride | 0.13 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl 4′-(2-hydroxyethoxy)biphenyl-4-carboxylate | 0.41 g | OCCOC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC | C17H18O4
reactant | triethylamine | 0.30 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 0.13 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.30 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4′-(2-methanesulfonyloxyethoxy)biphenyl-4-carboxylate | 0.32 g | CS(=O)(=O)OCCOC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC | C18H20O6S
